US05747515
1-Phenyl-1-(5-thiazolyl)ethanol
n-Butyllithium (2.5M solution in hexane, 7ml) in diethyl ether (30ml) was stirred at -70° C. under a nitrogen atmosphere and 2-trimethylsilylthiazole (2.5g) in diethyl ether (10 ml) was added dropwise. After 30 minutes, acetophenone (2.3g) in diethyl ether (10 ml) was added dropwise. After a further 45 minutes the mixture was allowed to warm to room temperature and was then left overnight. Water was added and the mixture was extracted with diethyl ether. The material thus obtained was purified by flash chromatography to give the title compound.

reactant | n-Butyllithium | 2.5M, 7ml | C(CCC)[Li]
reactant | 2-trimethylsilylthiazole | 2.5g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | acetophenone | 2.3g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | Water | O | H2O
solvent | diethyl ether | 30ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-Phenyl-1-(5-thiazolyl)ethanol | C1(=CC=CC=C1)C(C)(O)C1=CN=CS1 | C11H11NOS
